US07312222B2
Step C. Preparation of (+/−)-N-(t-butoxycarbonyl)-2-(phenylmethoxymethyl)-morpholine.
To a stirring solution of 2-(phenylmethoxymethyl)-morpholine (450 mg, 2.17 mmol) in dry THF (20 mL) was added di-t-butyl dicarbonate (473 mg, 2.17 mmol, Aldrich). The reaction was allowed to stir for 1 h and then conc. in vacuo to an oil. The oil was purified by flash chromatography (SiO2, Hexanes:EtOAc 4:1) to yield 595 mg of a colorless oil. MS (CI) 308 (M+H).

reactant | 2-(phenylmethoxymethyl)-morpholine | 2.17 mmol, 450 mg | C1(=CC=CC=C1)COCC1CNCCO1 | C12H17NO2
reactant | di-t-butyl dicarbonate | 2.17 mmol, 473 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (+/−)-N-(t-butoxycarbonyl)-2-(phenylmethoxymethyl)-morpholine | 595 mg | C(C)(C)(C)OC(=O)N1CC(OCC1)COCC1=CC=CC=C1 | C17H25NO4
